Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
seizures
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ F w PMHx of ?Downs syndrome, chronic R
hemiparesis (since infancy), seizure d/o, and HTN who presents 
to
___ ED with now resolved status epilepticus. As Ms. ___ is
___ at baseline, the below history is taken from OSH
records and her brother (contacted via telephone).
Ms. ___ was in her usual state of health until approximately
2 days ago, when she began having brief, frequent R sided
shaking. Her brother reports that she the shaking involved the
right face and arm more than the leg. The episodes would last 30
seconds and recurred every 5 minutes. It is unclear if she
returned to baseline between events. 
Her brother reports that the family took Ms. ___ to ___ the following morning (___) for evaluation (no 
reason
given for delay in seeking care). At ___, Ms. ___
was afebrile with BP 149/79. Chemistry and CBC were grossly
normal, but UA did have ___ and nitrites with +bacteria and
+WBCs. NCHCT showed a "suspected chronic left-sided subdural
hygroma with mild mass effect." She was given Ativan 2mg IV x4
and loaded with PHT 500mg IV x1. A post-load level was pending 
at
the time of her transfer.
Upon arrival to ___ ED, Ms. ___ was sleepy but rousable
with purposeful movements. BP was initially ~120, but did dip as
low as 79/45. She then received 2L of NS with ___ improvement 
in
BP.

Ms. ___ brother reports that she had a similar episode ___
years ago and was admitted to the hospital. He believes that the
seizure she had at that time were identical to those that she is
having now. He does not live with Ms. ___, but states that
she has seizures very infrequently and actually is unaware if 
she
has had any seizures at all in the last ___ years. She is
maintained on phenytoin 100mg BID.
 
Past Medical History:
- reported history of Down's syndrome, suspected misdiagnosis
- HTN
- R hemiparesis since infancy
  - family unaware of underlying diagnosis
- seizure disorder, on PHT
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
==================
ADMISSION EXAM
==================
PHYSICAL EXAMINATION
VS T99.2 HR68 BP104/58 RR14 Sat97%RA
GEN - ___ woman, sleepy, ___
HEENT - NC/AT, MMM
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION
MS - Sleepy, rouses to nox, but very little spontaneous eye
opening. ___, does not obey commands (in ___, does
make some purposeful movements with the LUE.
CN - No reliable BTT bilaterally. PERRL. Horizontal eye 
movements
grossly intact. R facial droop. ?Absent corneal on the right,
present on the left. 
MOTOR - Moves left hemibody purposefully and antigravity. RLE is
antigravity with nox. RUE is held in flexion, no movement to 
nox.
SENSORY - Briskly localizes pain over the left side; briskly
localizes to pain over the right side with LUE
REFLEXES - 2s in BUEs, 2s at patella, absent R ankle jerk, 2 at 
L
ankle; toes are up bilaterally
COORD - not able to test formally, no gross evidence of truncal
or appendicular ataxia
GAIT - deferred

==================
DISCHARGE EXAM
==================
PHYSICAL EXAMINATION
GEN - ___ woman, awake, alert, smiling
HEENT - NC/AT, MMM
NECK - full ROM
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION
MS - Awake, alert, interactive. Follows simple commands in 
___, speaks short phrases such as ___ morning", and 
states her own name.
___ - ___ reactive, EOM full. Decreased activation and 
baseline asymmetry of R hemiface. Tongue midline, palate 
elevation symmetric.
MOTOR - Lifts left upper and lower extremities with resistance 
as well as right lower extremity antigravity, holds right upper 
extremity in flexion with movement to plane but not against 
gravity.
SENSORY - Briskly localizes pain over the left side; briskly
localizes to pain over the right side with LUE
REFLEXES - 2s in BUEs, 2s at patella, absent R ankle jerk, 2 at 
L ankle; toes are up on R, equivocal on L.
COORD - no truncal or appendicular ataxia
GAIT - deferred
 
Pertinent Results:
___ 06:00PM BLOOD WBC-11.7*# RBC-4.70 Hgb-15.0 Hct-46.4* 
MCV-99* MCH-31.9 MCHC-32.3 RDW-11.9 RDWSD-43.0 Plt ___
___ 06:00PM BLOOD Neuts-68.1 ___ Monos-5.3 Eos-0.2* 
Baso-0.5 Im ___ AbsNeut-7.95* AbsLymp-2.96 AbsMono-0.62 
AbsEos-0.02* AbsBaso-0.06
___ 06:00PM BLOOD Glucose-110* UreaN-17 Creat-0.9 Na-137 
K-3.6 Cl-101 HCO3-24 AnGap-16
___ 06:28AM BLOOD Calcium-8.0* Phos-2.9 Mg-2.1
___ 06:00PM BLOOD ALT-18 AST-23 AlkPhos-138* TotBili-0.4 
DirBili-0.1 IndBili-0.3
___ 06:00PM BLOOD Phenyto-8.6*
___ 06:28AM BLOOD Phenyto-9.8*
___ 06:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:11PM BLOOD Lactate-1.9
___ 07:30PM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 07:30PM URINE RBC-7* WBC-39* Bacteri-FEW Yeast-NONE 
Epi-0
___ 07:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

EEG ___
IMPRESSION: This is a markedly abnormal video EEG monitoring 
session because
of (1) continuous voltage attenuation over the left hemisphere, 
possibly
indicative of increased distance between electrode and brain on 
the left (due
to intra-axial, extra-axial or extracranial abnormality); (2) 
asymmetric
delta/theta slowing on the left consistent with focal left 
hemispheric
dysfunction. Continuous beta activity on the right may be 
secondary to recent
benzodiazepine administration. There are no epileptiform 
discharges. There
are no electrographic seizures.

EEG ___
IMPRESSION: This is an abnormal video EEG monitoring session 
because of (1)
beginning around 9:30 a.m. on ___, frequent left temporal 
sharp wave
discharges, at times occurring in runs, consistent with a focus 
of cortical
irritability. These decrease markedly after administration of IV 
lorazepam
around noon; (2) a four to five second run of sharp left frontal 
8 Hz
activity, without clinical correlate, occurring at 09:55 
consistent with a
second focus of cortical irritability; (3) continuous voltage 
attenuation over
the left hemisphere, possibly indicative of increased distance 
between
electrode and brain on the left (due to intra-axial, extra-axial 
or
extracranial abnormality); (4) asymmetric delta/theta slowing on 
the left
consistent with focal left hemispheric dysfunction. Continuous 
beta activity
on the right may be secondary to recent benzodiazepine 
administration. There
are no electrographic seizures.

EEG ___
IMPRESSION: This is an abnormal video EEG monitoring session 
because of (1)
continuous voltage attenuation over the left hemisphere possibly 
indicative of
increased distance between electrode and brain on the left (due 
to intra-
axial, extra-axial or extracranial abnormality); (4) asymmetric 
delta/theta
slowing on the left consistent with focal left hemispheric 
dysfunction.
Continuous beta activity on the right may be secondary to recent
benzodiazepine administration. There are no electrographic 
seizures. Compared
to yesterday's recording, there are no longer any definite left 
temporal
epileptiform discharges.
 
Brief Hospital Course:
Patient admitted for breakthrough motor seizures. Found to have 
E coli UTI (sensitivities still pending at time of discharge) 
for which she was treated with iv ceftriaxone x2 days followed 
by po course of cefpodoxime to take at home. Phenytoin levels 
were found to be low despite 2 iv boluses, and this was switched 
to levetiracetam 750mg BID. Continuous video EEG demonstrated no 
electrographic seizures but with left temporal discharges that 
decreased in frequency after initiation of antibiotic treatment 
and switching her AED. She was initially sedated from lorazepam 
boluses to treat her presenting seizures, but she recovered and 
her mental status and remainder of neurologic exam appeared to 
be at baseline by discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Phenytoin Sodium Extended 100 mg PO BID 

 
Discharge Medications:
1. Lisinopril 40 mg PO DAILY 
2. LeVETiracetam 750 mg PO BID 
RX *levetiracetam 750 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*5
3. Cefpodoxime Proxetil 100 mg PO Q12H simple UTI Duration: 7 
Days 
RX *cefpodoxime 100 mg 1 tablet(s) by mouth twice daily Disp 
#*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy
Left hygroma
Reported Down's syndrome, suspected misdiagnosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital because of frequent motor 
seizures on your right side. We found that the level of 
phenytoin in your blood was too low, and also that you had a 
urinary tract infection. Most likely you were having 
breakthrough seizures due to a combination of these two factors. 


We treated you with IV antibiotics. You should continue taking 
oral antibiotics at home for 7 days to completely treat the UTI. 
We stopped the phenytoin because it was not working for you, and 
we started a different anti-seizure medication called 
levetiracetam which you should take twice daily.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___